US08729061B2
(2S,3S)-3-Amino-2-hydroxy-N-(2-(naphthalen-2-yl)ethyl)pentanamide
The title compound was prepared in analogy to (2S,3S)-3-amino-N-cyclopropyl-2-hydroxypentanamide, Representative Procedure B, using 2-(naphthalen-2-yl)ethanamine hydrochloride in the seventh step (step B7).

reactant | (2S,3S)-3-amino-N-cyclopropyl-2-hydroxypentanamide | N[C@H]([C@@H](C(=O)NC1CC1)O)CC | C8H16N2O2
reactant | 2-(naphthalen-2-yl)ethanamine hydrochloride | Cl.C1=C(C=CC2=CC=CC=C12)CCN
product | (2S,3S)-3-Amino-2-hydroxy-N-(2-(naphthalen-2-yl)ethyl)pentanamide | N[C@H]([C@@H](C(=O)NCCC1=CC2=CC=CC=C2C=C1)O)CC | C17H22N2O2
